US07429565B2
6-(4-Hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-2-[4-(hydroxy-methoxy-phosphoryl)-but-2-enyl]-4-methyl-hex-4-enoic acid
To a solution of 2-[4-(hydroxy-methoxy-phosphoryl)-but-2-enyl]-6-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-4-methyl-hex-4-enoic acid 2-trimethylsilanylethyl ester (11 mg, 0.016 mmol) in THF (1 mL) was added TBAF (50 μL, 1M solution in THF) at room temperature. The solution was stirred for 16 hours and concentrated. The solution was dried under reduced pressure and re-suspended in DMF (0.8 mL) and water (0.25 mL). The solution was filtered through Acrodisc (13 mm syringe filter with a 0.45 μm Nylon membrane) and purified by RP HPLC using a Phenomenex Synergi 5μ Hydro RP 80A column (50×21.2 mm) with eluents of H2O, 0.1% TFA-CH3CN, 0.1% TFA. The product from the column was subjected to ion exchange chromatography (Sodium salt form of Dowex 50WX8-400) using a 2×4.5 cm column eluting with H2O-MeOH (1:1) to provide 7.5 mg of the desired product as an oil. 1H NMR (300 MHz, CDCl3) δ 1.80 (s, 3H), 2.01-2.29 (m, 5H), 2.11 (s, 3H), 2.35 (d, 2H, J=22 Hz), 3.38 (d, 2H, J=7 Hz), 3.53 (d, 3H, J=11 Hz), 3.75 (s, 3H), 5.19 (s, 2H), 5.26 (t, 1H, J=6 Hz), 5.43-5.54 (m, 2H) ppm; 31P (121.4 MHz, CDCl3) δ 23.5 ppm; MS (m/z) 469.2 [M+H]+, 491.3 [M+Na]+.

reactant | 2-[4-(hydroxy-methoxy-phosphoryl)-but-2-enyl]-6-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-4-methyl-hex-4-enoic acid 2-trimethylsilanylethyl ester | 0.016 mmol, 11 mg | C[Si](CCOC(C(CC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)OCC[Si](C)(C)C)C)CC=CCP(=O)(OC)O)=O)(C)C | C32H53O9PSi2
reactant | TBAF | 1M, 50 μL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 6-(4-Hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-2-[4-(hydroxy-methoxy-phosphoryl)-but-2-enyl]-4-methyl-hex-4-enoic acid | 7.5 mg | OC1=C2C(OCC2=C(C(=C1CC=C(CC(C(=O)O)CC=CCP(=O)(OC)O)C)OC)C)=O | C22H29O9P
